US06586630B1
(2) Synthesis of 5-tert-Butyl-4-tert-butyldimethylsilanyloxymethylfuran-2-carboaldehyde
Under cooling with ice, a solution of methyl ester of 5-tert-butyl-4-tert-butyldimethylsilanyloxymethylfuran-2-carboxylic acid (2.16 g, 6.63 mmol) in diethyl ether (20 ml) was added to a suspension of lithium aluminum hydride (503 mg, 13.3 mmol) in diethyl ether (20 ml), followed by stirring for 1 hour. Under cooling with ice, the mixture was mixed with ethyl acetate and saturated aqueous NH4Cl and filtered. The filtrate was extracted with ethyl acetate and the organic layer was washed with water and saturated brine, dried over magnesium sulfate and evaporated to remove the solvent. The thus obtained residue was dissolved in methylene chloride (80 ml), mixed with manganese dioxide (5.76 g, 66.3 mmol) and stirred overnight. After filtering the reaction mixture, the filtrate was evaporated to remove the solvent to give the titled compound (1.58 g, 81%).

reactant | 5-tert-butyl-4-tert-butyldimethylsilanyloxymethylfuran-2-carboxylic acid | 6.63 mmol, 2.16 g | C(C)(C)(C)C1=C(C=C(O1)C(=O)O)CO[Si](C)(C)C(C)(C)C | C16H28O4Si
reactant | lithium aluminum hydride | 13.3 mmol, 503 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | manganese dioxide | 66.3 mmol, 5.76 g | [O-2].[O-2].[Mn+4]
product | 5-tert-Butyl-4-tert-butyldimethylsilanyloxymethylfuran-2-carboaldehyde | 1.58 g, 81% | C(C)(C)(C)C1=C(C=C(O1)C=O)CO[Si](C)(C)C(C)(C)C | C16H28O3Si
